US05356886
A solution of (E)-2-amino-6-chloro-9-[4-(diisopropoxyphosphoryl)but-3-enyl]purine (370 mg, 954 μmol) in saturated ethanolic ammonia (60 ml) was heated at 100° C. in a stainless steel autoclave for 7 hr. The solution was allowed to cool then the solvent was removed. The residue was purified by column chromatography on silica gel eluting with dichloromethane-methanol (19:1, 9:1) to give (E)-2, 6-diamino-9-[4-(diisopropoxyphosphoryl)but-3-enyl]purine as a white solid (175mg, 50%), m.p. 211°-213° C.; λmax (MeOH) 256 (7,860) and 283 (9,670)nm; υmax (KBr) 3460, 3325, 3174, 1630, 1590, 1470, 1410 and 1250 cm-1 ; δH [(CD3)2SO] 1.11 (6H, d, J 6 Hz, CH(CH3)2), 1.17 (6H, d, J 6 Hz, CH(CH3)2), 2.50 (2H, m, CH2), 4.12 (2H, t, J 7 Hz, CH2N), 4.33 (2H, m, CH(CH3)2), 5.73 (2H, s, D2O exchangeable, NH2), 5.73 (1H, dd, J 17 Hz and 20 Hz, PCH=CH), 6.55 (1H, ddt, J 7 Hz, 17 Hz and 20 Hz, PCH=CH), 6.60 (2H, s, D2O exchangeable, NH2), 7.68 (1H, s, H-8) (Found: MH+ 369. 1803. C15H25N6O3P requires MH+ 369. 1804).

reactant | (E)-2-amino-6-chloro-9-[4-(diisopropoxyphosphoryl)but-3-enyl]purine | 954 μmol, 370 mg | NC1=NC(=C2N=CN(C2=N1)CC\C=C\P(=O)(OC(C)C)OC(C)C)Cl | C15H23ClN5O3P
reactant | ammonia | 60 ml | N | H3N
product | (E)-2, 6-diamino-9-[4-(diisopropoxyphosphoryl)but-3-enyl]purine | 175mg, 50% | NC1=NC(=C2N=CN(C2=N1)CC\C=C\P(=O)(OC(C)C)OC(C)C)N | C15H25N6O3P
